US08445510B2
tert-Butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate
A solution of tert-butyl 5-bromo-3-[(1S)-1-{6-[(tert-butoxycarbonyl)oxy]-2-chloro-3-fluorophenyl}ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (1.982 g, 3.478 mmol) in CH2Cl2 (40 mL) was charged with piperidine (12 mL, 120 mmol) and was stirred at rt for 16 h. The reaction mixture was diluted with CH2Cl2 and washed with 0.5 N HCl (4×50 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude was adsorbed onto a pre-filled silica gel loading cartridge [RediSepRf, 5 g] and purified using the Teledyne/ISCO system [RediSepRf 24 gram silica], eluting with a 10-50% EtOAc:Heptane solvent gradient. Fractions containing the desired product were pooled together and concentrated in vacuo, yielding the title material as a white solid. 1H NMR (400 MHz, CDCl3): δ=8.39 (d, J=2.3 Hz, 1H), 7.65 (d, J=1.5 Hz, 1H), 7.54 (d, J=2.0 Hz, 1H), 6.97 (dd, J=8.8, 8.3 Hz, 1H), 6.67 (dd, J=8.8, 4.5 Hz, 1H), 4.93 (qd, J=7.1, 1.3 Hz, 1H), 1.78 (d, J=7.1 Hz, 3H), 1.68 (s, 9H). MS (ES+): m/z 412.78/414.75/416.76 (75/100/27) [MH+−C4H8]. HPLC: tR=4.13 min (ZQ3, polar—5 min).

reactant | tert-butyl 5-bromo-3-[(1S)-1-{6-[(tert-butoxycarbonyl)oxy]-2-chloro-3-fluorophenyl}ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 3.478 mmol, 1.982 g | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC(=O)OC(C)(C)C)F)Cl)C(=O)OC(C)(C)C | C25H27BrClFN2O5
reactant | piperidine | 120 mmol, 12 mL | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2O)F)Cl)C(=O)OC(C)(C)C | C20H19BrClFN2O3
